US07968570B2
4-Bromo-2-methoxy-6-methyl phenylamine
2-Methoxy-6-methyl phenylamine (10 g, 72.9 mmol) was set stirring in methanol (30 mL) and acetic acid (10 mL) at 0° C. Bromine (3.73 mL, 72.9 mmol) was dissolved in acetic acid (15 mL) and added dropwise to the reaction. The reaction was stirred for 2 hours and the solvent was removed under reduced pressure. The resulting residue was basified with 1N NaOH and partitioned with EtOAc. The organic layer was dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and the product was purified by column chromatography (20% EtOAc/Hexanes) to afford a red-brown solid (6.86 g, 87%). 1H NMR (300 MHz, CDCl3): δ 6.87 (d, 1H), 6.81 (d, 1H), 3.85 (s, 3H), 2.16 (s, 3H).

reactant | 2-Methoxy-6-methyl phenylamine | 72.9 mmol, 10 g | COC1=C(C(=CC=C1)C)N | C8H11NO
reactant | Bromine | 72.9 mmol, 3.73 mL | BrBr | Br2
solvent | methanol | 30 mL | CO | CH4O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-methoxy-6-methyl phenylamine | 6.86 g, 87% | BrC1=CC(=C(C(=C1)C)N)OC | C8H10BrNO
